US07759337B2
Synthesis of Methyl 3-(1-cyanophthalazin-6-yl)-4-methylbenzoate
To methyl 3-(1-chlorophthalazin-6-yl)-4-methylbenzoate (2.49 g, 7.96 mmol) and zinc cyanide (1.87 g, 15.9 mmol) was added DMF (39.8 mL). The mixture was sparged with nitrogen for 15 min, and tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.330 g, 0.318 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (0.177 g, 0.318 mmol) were added. The reaction was heated to 100° C. for 30 min. The reaction mixture was diluted with 100 mL ethyl acetate, partitioned with sodium bicarbonate (saturated, aqueous), and the organics were washed 3×50 mL with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by flash chromatography to give the title compound. MS (ES+): 304(M+H)+.

reactant | methyl 3-(1-chlorophthalazin-6-yl)-4-methylbenzoate | 7.96 mmol, 2.49 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1C | C17H13ClN2O2
reactant | DMF | 39.8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 15.9 mmol, 1.87 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.318 mmol, 0.330 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.318 mmol, 0.177 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl 3-(1-cyanophthalazin-6-yl)-4-methylbenzoate | C(#N)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1C | C18H13N3O2
